US03946004
A mixture of 5-methyl-2-pyrrolidinone (6.0 g., 0.06 mole), phosphorus oxychloride (9.2 g., 0.06 mole) in 60 ml. of 1,2-dichloroethane is refluxed for 10 min. A solution of phenothiazine (6.0 g., 0.03 mole) in 20 ml. of 1,2-dichloroethane is added at the end of the reflux period and the reaction mixture stirred and refluxed for 20 hr., and then poured onto 20 ml. of 5N potassium hydroxide and 20 g. of crushed ice. The 1,2-dichloroethane layer is separated and extracted with 30 ml. of 1.5N hydrochloric acid and 30 ml. of water removing water soluble by-product 10-[2-(5-methyl-1-pyrrolinyl)]-phenothiazine hydrochloride. After drying the 1,2-dichloroethane solution over magnesium sulfate, the 1,2-dichloroethane solution is concentrated and the solid thus obtained stirred with 40 ml. of acetone and filtered. Crystallization of the filtercake from ethanol-ether provides analytically pure 10-[5-METHYL-1-(5-METHYL-1 -PYRROLIN-2-YL]PHENOTHIAZINE HYDROCHLORIDE in a yield of 17%, m.p. 257°-264° C. (corr.).

reactant | 5-methyl-2-pyrrolidinone | 0.06 mole, 6.0 g | CC1CCC(N1)=O | C5H9NO
reactant | phosphorus oxychloride | 0.06 mole, 9.2 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | phenothiazine | 0.03 mole, 6.0 g | C1=CC=CC=2SC3=CC=CC=C3NC12 | C12H9NS
reactant | potassium hydroxide | 5N | [OH-].[K+]
reactant | 1,2-dichloroethane | ClCCCl | C2H4Cl2
product | 5-METHYL-1-(5-METHYL-1 -PYRROLIN-2-YL]PHENOTHIAZINE HYDROCHLORIDE | yield of 17% | Cl.CS1C=2C=CC=C(C2NC2=CC=CC=C12)C1=NC(CC1)C | InChI=1S/C18H20N2S.ClH/c1-12-10-11-14(19-12)13-6-5-9-17-18(13)20-15-7-3-4-8-16(15)21(17)2;/h3-9,12,20-21H,10-11H2,1-2H3;1H
